US07812043B2
1-Benzyl-1H-indole-3-carboxylic acid pyridine-2-ylamide
R5Br=Bromomethylbenzene; NH2A=2-aminopyridine; Indole starting material=methyl indole 3-carboxylate

reactant | Bromomethylbenzene | BrCC1=CC=CC=C1 | C7H7Br
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | Indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | methyl indole 3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
product | 1-Benzyl-1H-indole-3-carboxylic acid pyridine-2-ylamide | N1=C(C=CC=C1)NC(=O)C1=CN(C2=CC=CC=C12)CC1=CC=CC=C1 | C21H17N3O
